US06211234B1
Sodium (R)-4-Hydroxy-4-(2-methylphenyl)butanoate (0.39 g) is added in one portion to a stirred suspension of sodium hydride (0.11 g, 60% dispersion in mineral oil) in tetrahydrofuran (30 mL) and the mixture is stirred at 50° C. for 1 hour. A solution of 2-fluoro-4-(isothiazol-4-ylmethoxy)benzonitrile (0.21 g) in tetrahydrofuran (20 mL) is added and the reaction mixture is stirred at reflux for 16 hours. The reaction mixture is concentrated in vacuo and water is added to the residue. The solution is acidified with 1 N hydrochloric acid and extracted with ethyl acetate (50 mL). The organic phase is washed with water (50 mL), with brine (50 mL), dried over magnesium sulphate and evaporated. The residue is purified by flash chromatography on silica eluting with a mixture of dichloromethane and methanol (19:1 v/v). Fractions homogeneous in the required product are combined and evaporated to give (R)-4-[(2-cyano-5-(isothiazol-4-ylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid, (0.02 g) in the form of a yellow oil. [NMR (CDCl3) (300 MHz): -2.2-2.4 (m, 2H), 2.45 (s, 3H), 2.6-2.65 (m), 2.75-2.8 (m,1H), 5.0 (q, 2H), 5.5 (dd,1H), 6.15 (d,1H), 6.5 (dd, 1H), 7.2 (m, 3H), 7.4 (m,1H), 7.45 (d,1H), 8.45 (d, 2H)].

reactant | Sodium (R)-4-Hydroxy-4-(2-methylphenyl)butanoate | 0.39 g | O[C@H](CCC(=O)[O-])C1=C(C=CC=C1)C.[Na+]
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | 2-fluoro-4-(isothiazol-4-ylmethoxy)benzonitrile | 0.21 g | FC1=C(C#N)C=CC(=C1)OCC=1C=NSC1 | C11H7FN2OS
reactant | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (2-cyano-5-(isothiazol-4-ylmethoxy)phenoxy]-4-(2-methylphenyl)butanoic acid | 0.02 g | C(#N)C1=C(OC(C(=O)O)CCC2=C(C=CC=C2)C)C=C(C=C1)OCC=1C=NSC1 | C22H20N2O4S
